US06080743
b) 2,3-Dimethoxy-7-nitro-quinoxaline-5-carbaldehyde
44 ml of 100% nitric acid, 44 ml of 97% sulfuric acid and 44 ml of trifluoroacetic anhydride are added in succession to a solution, cooled to 0° C., of 22 g (100.8 mmol) of 2,3-dimethoxy-quinoxaline-5-carbaldehyde in 88 ml of trifluoroacetic acid. The mixture is maintained at 0° C. for 2 hours and is then carefully poured onto a mixture of 4N NaOH and ice. The temperature should not exceed 20° C. The mixture is extracted with ethyl acetate. The organic phase is washed with an aqueous 1 N NaOH solution, water and brine and dried over sodium sulfate. Crystallization of the crude product yields the title compound in the form of light-yellow crystals. M.p.: 147-149° C.; TLC (EtOAc/hexane 1:3): Rf =0.25.

reactant | nitric acid | 44 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 44 ml | S(O)(O)(=O)=O | H2O4S
reactant | trifluoroacetic anhydride | 44 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2,3-dimethoxy-quinoxaline-5-carbaldehyde | 100.8 mmol, 22 g | COC1=NC=2C=CC=C(C2N=C1OC)C=O | C11H10N2O3
reactant | NaOH | 4N | [OH-].[Na+]
solvent | trifluoroacetic acid | 88 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2,3-Dimethoxy-7-nitro-quinoxaline-5-carbaldehyde | COC1=NC=2C=C(C=C(C2N=C1OC)C=O)[N+](=O)[O-] | C11H9N3O5
